### PR TITLE
The Lie product on observables

### PR DESCRIPTION
**Pull request by TomOleDiem**
Observables carry two product structures: the symmetric Jordan product and the antisymmetric Lie product.

### CODE REVIEW

File: Physlib/QuantumMechanics/OperatorAlgebra/Observables/Lie.lean
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/OperatorAlgebra/Observables/Lie.lean:1]: I think maybe ./OperatorAlgebra/Observables/Lie.lean would be better?

File: Physlib/QuantumMechanics/OperatorAlgebra/Lie.lean [hunk 1]
```diff
@@ -0,0 +1,161 @@
...
+private lemma smul_lie (r : ℂ) (x y : A) :
+    ⁅r • x, y⁆ = r • ⁅x, y⁆ := by
+  simp only [Ring.lie_def, mul_smul_comm, smul_mul_assoc, smul_sub]
+
+lemma leibniz_bracket (a b c : Observable A) :
+    ⁅a, ⁅b, c⁆⁆ = ⁅⁅a, b⁆, c⁆ + ⁅b, ⁅a, c⁆⁆ := by
+  apply Subtype.ext
+  rw [AddSubgroup.coe_add]
+  let s : ℂ := -(Complex.I / 2)
+
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/OperatorAlgebra/Lie.lean]: No spaces in proofs.

**Comment by jstoobysmith** [comment]
awaiting-author

File: Physlib/QuantumMechanics/OperatorAlgebra/Lie.lean (hunk 1 above)
Comment (TomOleDiem) [reply Physlib/QuantumMechanics/OperatorAlgebra/Lie.lean]: Done

File: Physlib/QuantumMechanics/OperatorAlgebra/Observables/Lie.lean
Comment (TomOleDiem) [reply Physlib/QuantumMechanics/OperatorAlgebra/Observables/Lie.lean:1]: Done.

**Comment by TomOleDiem** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
This looks good to me. Will approve and merge now. Will try and get to your others tomorrow if no one gets there before me! Thanks for keeping the PRs short! Helps a lot
